US05284847
6-Ethoxycarbonyl-7-propylthieno[2,3-b]pyrazine-2,3-(1H,4H)-dione
A suspension of ethyl 2-ethoxalylamino-3-nitro-4-propylthiophene-5-carboxylate (4.2 g, 11.7 mmol) and zinc dust (3.83 g, 58.6 mmol) in 57 ml of 80% aqueous acetic acid was stirred under a nitrogen atmosphere in a water bath for 1 hour. The reaction mixture was decanted from the residual zinc and poured into ice water. The precipitate was filtered off, washed with water and dried. Recrystallization from ethanol (300 ml) afforded 1.67 g (62%) of the title compound. M.p.305°-307° C. 1H-NMR (DMSO-D6,δ): 0.93 (t, 3H), 1.28 (t, 3H), 1.49 (hex, 2H), 2.96 (t, 3H), 4.26 (q, 2H), 12.06 (s, 1H), 12.54 (s, 1H).

reactant | ethyl 2-ethoxalylamino-3-nitro-4-propylthiophene-5-carboxylate | 11.7 mmol, 4.2 g | C(=O)(C(=O)OCC)NC=1SC(=C(C1[N+](=O)[O-])CCC)C(=O)OCC | C14H18N2O7S
solvent | acetic acid | 57 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 58.6 mmol, 3.83 g | [Zn] | Zn
product | 6-Ethoxycarbonyl-7-propylthieno[2,3-b]pyrazine-2,3-(1H,4H)-dione | 1.67 g, 62% | C(C)OC(=O)C1=C(C2=C(NC(C(N2)=O)=O)S1)CCC | C12H14N2O4S
